US07635684B2
4-[(4-{3-[2-Carbamoyl-1,1-di(methyl)ethylamino]propoxy}-2-methylphenyl)methyl]-3-(β-D-galactopyranosyloxy)-5-isopropyl-1H-pyrazole
The title compound was prepared in a similar manner to that described in Example 72 using 3-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyloxy)-4-{[4-(3-hydroxypropoxy)-2-methylphenyl]methyl}-5-isopropyl-1H-pyrazole and 3-amino-3-methylbutyramide instead of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-hydroxypropoxy)phenyl]-methyl}-5-isopropyl-1H-pyrazole and 2-[2-amino-2-(methyl)-propionylamino]ethanol, respectively.

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyloxy)-4-{[4-(3-hydroxypropoxy)-2-methylphenyl]methyl}-5-isopropyl-1H-pyrazole | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=C(C=C(C=C1)OCCCO)C)C(C)C | C31H42N2O12
reactant | 3-amino-3-methylbutyramide | NC(CC(=O)N)(C)C | C5H12N2O
reactant | 2-[2-amino-2-(methyl)-propionylamino]ethanol | NC(C(=O)NCCO)(C)C | C6H14N2O2
product | 4-[(4-{3-[2-Carbamoyl-1,1-di(methyl)ethylamino]propoxy}-2-methylphenyl)methyl]-3-(β-D-galactopyranosyloxy)-5-isopropyl-1H-pyrazole | C(N)(=O)CC(C)(C)NCCCOC1=CC(=C(C=C1)CC=1C(=NNC1C(C)C)O[C@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)C | C28H44N4O8
